US04992437
In 20 ml of chloroform was dissolved 1.5 g of 6-amino-4-(2-chlorophenyl)-2-ethyl-9-propyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepine, and 0.47 g of triethylamine was added to the solution. A solution of 0.89 g of naphthalene-2-carbonyl chloride in 10 ml of chloroform was added dropwise to the mixture at not more than 10° C. The mixture was further stirred for 1 hour at room temperature and washed with 0.1N hydrochloric acid, 0.1N sodium hydroxide and a saturated solution of sodium chloride in order. Thereafter, the solvent was distilled off under reduced pressure, and the residue was washed with diisopropyl ether. Ethanol was added to yield crystals, which were collected by filtration. The crystals were recrystallized from chloroform-ethanol to give 1.4 g of 4-(2-chlorophenyl)-2-ethyl-6-(2-naphthalenecarboxamido)-9-propyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine, m.p. 226°-227° C.

reactant | 6-amino-4-(2-chlorophenyl)-2-ethyl-9-propyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepine | 1.5 g | NC1C=2N(C3=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(S3)CC)C(=NN2)CCC | C19H20ClN5S
reactant | triethylamine | 0.47 g | C(C)N(CC)CC | C6H15N
reactant | naphthalene-2-carbonyl chloride | 0.89 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-chlorophenyl)-2-ethyl-6-(2-naphthalenecarboxamido)-9-propyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 1.4 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)CCC)NC(=O)C2=CC3=CC=CC=C3C=C2 | C30H26ClN5OS
